Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Valium
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y.o F with history of thyroid disease presents to the ___ 
___ with N/V/D and abdominal pain, with RLQ>LLQ tenderness 
to palpation, recent episode of similar pain within the past 
month with CT scan concerning for possible inflammatory bowel 
disease, transferred for GI consultation and expedited workup, 
including MRI-E and possibly colonoscopy. 

In the ___, initial VS were 99.4 88 108/65 16 100% RA. 
Labs with CBC with normal WBC, H/H of 11.1/33.8, Plt 212. BMP 
WNL. Lipase 36. Lactate 1.1. 
The patient received IV NS, IV lorazepam 1 mg. 
Upon arrival to the floor, the patient tells the story as 
follows.

She reports that the end of ___ she was seen at ___ 
for similar symptoms. At that time, she had a CT scan which she 
was told was "normal" and likely represented a gastroenteritis. 
She was sent home. Her symptoms subsequently resolved. On the 
day of admission, she reported acute onset severe abdominal 
pain, which was diffuse, and described as sharp and crampy 
abdominal pain. It was associated with frequent watery diarrhea 
without blood and significant vomiting and nausea, also without 
blood.  She describes as a similar incident in ___, 
however worse in severity.  Prior to that, she was previously 
well, with her last bout of "colitis" approximately ___ years ago. 
 She otherwise denies fevers, chills, chest pain, dysuria, joint 
pain, rashes, vaginal bleeding or vaginal discharge.  Of note, 
she just returned from ___ approximately 2 days ago, she 
reports she was bit by several mosquitoes.

 
Past Medical History:
- Anxiety
- Hyperthyroidism s/p radioactive ablation
- Asthma
 
Social History:
___
Family History:
Mother with hyperthyroidism. Maternal grandmother with thyroid 
cancer. No other history of autoimmune disease. No FH of 
inflammatory bowel disease. 
 
Physical Exam:
Vitals: 98.9 PO 100 / 64 71 18 99 Ra 
Gen: Lying in bed in no apparent distress, awake and alert
HEENT: AT, NC, PERRL, EOMI, MMM, hearing grossly intact
GI: (+) BS, soft, generalized tenderness, ND, no HSM 
MSK: No edema
Skin: No rashes or ulcerations evident
Neuro: A+O x4, speech fluent, face symmetric, moving all 
extremities
Psych: calm mood, appropriate affect
 
Pertinent Results:
___ 08:50AM BLOOD WBC-3.9* RBC-3.25* Hgb-9.9* Hct-29.9* 
MCV-92 MCH-30.5 MCHC-33.1 RDW-12.8 RDWSD-42.5 Plt ___
___ 08:50AM BLOOD Glucose-85 UreaN-11 Creat-0.7 Na-142 
K-3.9 Cl-108 HCO3-22 AnGap-12
___ 08:50AM BLOOD ALT-7 AST-11 AlkPhos-32* TotBili-0.2
___ 08:50AM BLOOD Calcium-7.6* Phos-2.5* Mg-1.9
___ 05:37PM BLOOD calTIBC-342 Ferritn-40 TRF-263
___ 05:37PM BLOOD CRP-47.5*
 
Brief Hospital Course:
___ y.o F presented to the ___ with N/V/D and abdominal 
pain, with RLQ>LLQ tenderness to palpation after having a recent 
episode of similar pain within the past month with CT scan 
concerning for possible inflammatory bowel disease, She was 
transferred for GI consultation and expedited workup, including 
MRE and possibly colonoscopy. Confounding the picture, she had 
recently returned from ___, thus making infectious 
gastroenteritis a concern prompting stool studies which were 
positive for C. diff. GI saw the patient and remained concerned 
about underlying IBD and were suspicious that this episode was 
unrelated and due to an infectious cause. Regardless, because 
she was positive for C. diff, the MRE had to be postponed to a 
later date due to having an active infection. At the time of 
discharge, her symptoms had improved and she was tolerating a 
regular diet. She was discharged on metronidazole to complete a 
14-day course. She will follow-up with GI as an outpatient to 
reschedule her MRE. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 hr 
vaginal ASDIR 
3. Divalproex (DELayed Release) 500 mg PO QAM 
4. Divalproex (DELayed Release) 250 mg PO QHS 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
6. LORazepam 0.5 mg PO BID:PRN anxiety 

 
Discharge Medications:
1.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  LORazepam 0.5 mg PO BID:PRN anxiety  
5.  NuvaRing (etonogestrel-ethinyl estradiol) 0.12-0.015 mg/24 
hr vaginal ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C. diff colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for inflammation of your colon 
and to expedite your work-up. You were seen by the GI team. You 
were diagnosed with a bacterial infection of your GI tract 
called C. diff colitis. You were started on antibiotics which 
you should continue as an outpatient for a total of 14 days. The 
GI team is recommending that you have an MRE (specialized MRI). 
Because of the infection in your GI tract, this test has been 
postponed to be done at a later date once your infection has 
resolved. The GI team will be contacting you to arrange an 
outpatient appointment in about 4 weeks.
 
Followup Instructions:
___